US04127575
EXAMPLE VII -- 2,3,5-Trichloropyridine
A solution was prepared by dissolving 2.5 grams of 2,3,5-trichloro-4-hydrazinopyridine in 25 milliliters of tetrahydrofuran. To this mixture was added ~10 milliliters of 5.25 percent sodium hypochlorite. The mixture was stirred at ~30° C. for about one hour. The mixture was diluted with water and extracted with methylene chloride. The extract was washed with water and the methylene chloride removed by evaporation. The residue, a dark brown oil, was recovered in a yield of 2.1 grams. The crude 2,3,5-trichloropyridine product was sublimed at ~1 millimeter of mercury and ~50° C. The purified product was obtained in a yield of 1.52 grams (72 percent of theoretical). The structure was confirmed by N.M.R.

reactant | 2,3,5-trichloro-4-hydrazinopyridine | 2.5 grams | ClC1=NC=C(C(=C1Cl)NN)Cl | C5H4Cl3N3
reactant | sodium hypochlorite | ~10 milliliters | Cl[O-].[Na+]
solvent | tetrahydrofuran | 25 milliliters | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2,3,5-Trichloropyridine | ClC1=NC=C(C=C1Cl)Cl | C5H2Cl3N
